US07196085B2
A stirred mixture of 4-(3-amino-4-fluorobenzyl)-2H-phthalazin-1-one (0.1 g, 0.37 mmol; prepared in a manner similar to that described in Example 23), 3-hex-2-enyldihydrofuran-2,5-dione (0.068 g, 0.37 mmol) and toluene (10 ml) was heated under reflux for 20 hours, then the resulting solid was collected by filtration from the hot mixture, washed with ethyl acetate (3 ml) and dried in vacuo to give 2-{[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenylcarbamoyl]methyl}oct-4-enoic acid (0.061 g) as an off-white solid, m.pt. 179–181° C.; 250 MHz 1H-nmr (d6-DMSO) δ (ppm): 0.7–0.9 (t, 3H) (CH3), 1.1–1.35 (m, 2H) (—CH2CH3), 1.75–2.0 (m, 2H) (—CH2CH2CH3), 2.0–2.3 (m, 2H) (—CH2CH═CH—), 2.3–2.8 (2×m obscured by DMSO signal, 2H+1H) (—CH2CH(CO2H)CH2—), 4.2 (s, 2H) (ArCH2—), 5.15–5.5 (m, 2H) (—CH═CH—) 6.9–7.2 (m, 2H) (2×ArH), 7.65–8.0 (m, 4H) (4×ArH), 8.2 (d, 1H) (ArH), 12.1 (br s, 1H) (CO2H), 12.6 (s, 1H) (CONH); m/z (M+H)+. 452, 93.7% purity.

reactant | 4-(3-amino-4-fluorobenzyl)-2H-phthalazin-1-one | NC=1C=C(CC2=NNC(C3=CC=CC=C23)=O)C=CC1F | C15H12FN3O
reactant | 3-hex-2-enyldihydrofuran-2,5-dione | 0.37 mmol, 0.068 g | C(C=CCCC)C1C(OC(C1)=O)=O | C10H14O3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenylcarbamoyl]methyl}oct-4-enoic acid | 0.061 g | FC1=C(C=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O)NC(=O)CC(C(=O)O)CC=CCCC | C25H26FN3O4
